US05436145
To an Erlenmeyer flask equipped with navels was filled a nutrient solution containing 1 g of yeast extract, 1 g of glucose, 0.3 g of K2HPO4, 0.1 g of KH2PO4, 1 mg of FeSO4, 50 mg of MgSO4, 1 mg of MnSO4 and 100 ml of water, and the resultant mixture was sterilized at 120° C. for 20 minutes. After cooling to 30° C., the mixture was added with separately sterilized 1 mg of CuSO4 and 0.2 g of 3-cyanopyridine as an inducer. One of the microorganisms listed in Table 1 which was incubated on nutrient agar medium for 24 hours was inoculated into the above mixture with a platinum loop, and the mixture was incubated at 30° C. for 24 hours using a rotary shaker of 160 rpm. After 24 hours, the broth was recovered and centrifuged. The cells separated were suspended in and washed with 0.02 mol of an acetate buffer (pH 5.5) and centrifuged to give a resting cell. To a 100 ml reactor was added 20 ml of 1.0% 3-cyanopyridine (pH 5.5), and the mixture was heated at 30° C., and mixed with the resting cell obtained above. The resultant mixture was stirred sufficiently for 24 hours to give 3-cyano-6-hydroxypyridine. The product was identified by means of HPLC, IR and 1H-NMR. Table 1 shows the results.

reactant | acetate | 0.02 mol, pH 5.5 | C(C)(=O)[O-]
reactant | 3-cyanopyridine | 20 ml, pH 5.5 | C(#N)C=1C=NC=CC1 | C6H4N2
product | 3-cyano-6-hydroxypyridine | C(#N)C=1C=NC(=CC1)O | C6H4N2O
